US08258135B2
A mixture of the ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate (2.60 g, 10.6 mmol), 4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile (1.78 g, 8.83 mmol), and 36.8 mL of anhydrous THF was cooled to 10° C. and stirred vigorously. To the stirring mixture was added sodium triacetoxyborohydride (2.62 g, 12.4 mmol), portionwise over a period of 1 hour. The mixture was heated to 50° C. for 18 hours. The reaction was quenched with a 10% sodium bicarbonate solution and extracted with EtOAc (3×50 mL). The organic layers were combined, acidified with 1 N HCl, and extracted with DCM (8×150 mL). In a 500 mL Erlenmeyer flask, the aqueous layer was neutralized slowly with solid sodium carbonate under continuous stirring until pH ˜7-8 and then extracted with DCM (3×200 mL). The organic extracts were combined, dried over sodium sulfate, filtered, and concentrated to afford the ethyl 1-{[4-cyano-4-(4-methylpyridin-2-yl)piperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate that gave a proton NMR spectrum consistent with theory and a mass spectrum (ES+) m/z of 431.0 calculated for M+H+: 1H NMR (400 MHz, CDCl3) δ 9.51 (d, J=7.1 Hz, 1H), 8.43 (d, J=4.95 Hz, 1H), 8.32 (s, 1H), 8.14 (d, J=8.9 Hz, 1H), 7.70 (t, J=7.8 Hz, 1H), 7.43 (s, 1H), 7.26 (m, 1H), 7.06 (d, J=4.9 Hz, 1H), 4.44 (q, J=7.1 Hz, 2H), 3.75 (s, 2H), 3.01 (d, J=12.0 Hz, 2H), 2.56 (t, J=11.3 Hz, 2H), 2.39 (s, 3H), 2.29 (t, J=12.9 Hz, 2H), 2.05 (d, J=12.4 Hz, 2H), 1.44 (t, J=7.1 Hz, 3H).

reactant | ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate | 10.6 mmol, 2.60 g | C(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC | C13H11NO4
reactant | 4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile | 8.83 mmol, 1.78 g | CC1=CC(=NC=C1)C1(CCNCC1)C#N | C12H15N3
reactant | sodium triacetoxyborohydride | 12.4 mmol, 2.62 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 36.8 mL | C1CCOC1 | C4H8O
product | ethyl 1-{[4-cyano-4-(4-methylpyridin-2-yl)piperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC)C1=NC=CC(=C1)C | C25H26N4O3
